US05171852
(1) Phenyl-6-chloro-3-nitrobenzenesulphonate
To 37.6 parts of phenol stirring in 780 parts water at pH 9.0 and at 5°-10° C. was added 100 parts 6-chloro-3-nitrobenzenesulphonyl chloride. A few drops of Calsolene oil wetting agent were added and the mixture was stirred at pH 9.5°-10° and 5°-10° C. for 3.5 hours, cooled and filtered. The solid was washed with cold water, and dried to give 116 parts of the desired product.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 6-chloro-3-nitrobenzenesulphonyl chloride | ClC1=CC=C(C=C1S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
solvent | water | O | H2O
product | Phenyl-6-chloro-3-nitrobenzenesulphonate | C1(=CC=CC=C1)OS(=O)(=O)C1=CC(=CC=C1Cl)[N+](=O)[O-] | C12H8ClNO5S
